US07476742B2
Preparation of ethyl [(1S)-5-(2-{2-[3-(benzylamino)-4-methylphenyl]-5-methvl-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate
A dried flask was charged with palladium acetate (25.2 mg, 0.11 mmol, 5 mol %), BINAP (104.9 mg, 0.17 mmol, 7.5 mol %), and cesium carbonate (1.46 g, 4.49 mmol). To this mixture was added a solution of ethyl ((1S)-5-{2-[2-(3-bromo-4-methylphenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate (1.12 g, 2.25 mmol) and benzyl amine (0.48 g, 4.49 mmol) in toluene (50 mL) using an addition funnel. The first 15 mL was added quickly (5 minutes) and the remainder added over a period of 1 h. The mixture warmed to 85° C. after the first 30% portion was added. The reaction mixture was stirred at 85° C. for 16 h. The crude was cooled to rt, diluted with ethyl acetate, and then filtered through a Celite® plug. The filtrate was then concentrated under reduced pressure and the residue purified by silica gel flash chromatography (10-20% ethyl acetate in hexanes) to afford 1.1 g (93.3% yield) of desired product. 1H NMR (300 MHz/CDCl3) δ 7.28-7.44 (m, 7H), 7.12 (d, 1H), 7.03 (d, 1H), 6.77 (s, 1H), 6.71 (d, 1H), 4.44 (s, 2H), 4.13-4.22 (m, 4H), 3.82 (br, 1H), 3.51 (qr, 1H), 2.96 (t, 2H), 2.77-2.92 (m, 2H), 2.71 (dd, 1H), 2.31-2.43 (m, 5H), 2.17 (s, 3H), 1.61-1.79 (m, 1H), 1.26 (t, 3H). EI-LCMS(rel abundance), m/z 525.4 (MH+, 100%).

reactant | cesium carbonate | 4.49 mmol, 1.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl ((1S)-5-{2-[2-(3-bromo-4-methylphenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate | 2.25 mmol, 1.12 g | BrC=1C=C(C=CC1C)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C26H28BrNO4
reactant | benzyl amine | 4.49 mmol, 0.48 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.11 mmol, 25.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.17 mmol, 104.9 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | ethyl [(1S)-5-(2-{2-[3-(benzylamino)-4-methylphenyl]-5-methvl-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate | 1.1 g, 93.3% yield | C(C1=CC=CC=C1)NC=1C=C(C=CC1C)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C33H36N2O4
